US04024274
A solution of 5.0 g of 3,4-dimethoxy-benzoic acid cyclooctylamide in 20 ml of absolute THF was added dropwise to a suspension of 1.4 g of lithium-aluminium hydride in 30 ml of absolute THF, the reaction mixture was heated for 4 hours to the boiling temperature and, after having cooled, it was cautiously combined with water. The residue was treated with 50 ml of THF, the combined organic phases were dried over Na2SO4, the solvent was removed and the oil obtained was combined with methanolic hydrochloric acid. After concentration, 3.9 g of N-cyclooctyl-3,4-dimethoxy-benzylamine-hydrochloride were obtained. Melting point 161°-163° C (from ethanol/ether).

reactant | 3,4-dimethoxy-benzoic acid cyclooctylamide | 5.0 g | C1(CCCCCCC1)NC(C1=CC(=C(C=C1)OC)OC)=O | C17H25NO3
reactant | lithium-aluminium hydride | 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-cyclooctyl-3,4-dimethoxy-benzylamine-hydrochloride | 3.9 g | Cl.C1(CCCCCCC1)NCC1=CC(=C(C=C1)OC)OC | InChI=1S/C17H27NO2.ClH/c1-19-16-11-10-14(12-17(16)20-2)13-18-15-8-6-4-3-5-7-9-15;/h10-12,15,18H,3-9,13H2,1-2H3;1H
